US04153703
Another sample of 2,5-diphenylthiazole is prepared by reacting alpha-(benzamido) acetophenone with phosphorus pentasulfide according to the procedure given by Gabriel, Berichte 43, 137 (1910); C.A. 4, 928. The overall yield, based on phenacyl bromide, is about 25% and the product melts at 103°-106° C.

reactant | alpha-(benzamido) acetophenone | C(C1=CC=CC=C1)(=O)NCC(=O)C1=CC=CC=C1 | C15H13NO2
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 2,5-diphenylthiazole | C1(=CC=CC=C1)C=1SC(=CN1)C1=CC=CC=C1 | C15H11NS
